US07087750B2
4-(3-Methyl-1-piperazinyl)-1-(2-methylbenzenesulfonyl)-1H-indole (Scheme 1)
The compound was prepared from 4-bromo-1-(2-methyl-benzenesulfonyl)-1H-indole and 3-methylpiperazine according to Method 1 to give 110 mg (38%) of a white solid: 1HNMR (CD3OD) δ 7.92–6.82 (m, 9H), 3.64–3.39 (m, 5H), 3.12–3.03 (m, 1H), 2.92–2.83 (m, 1H), 2.47 (s, 3H), 1.40 (d, J=7 Hz, 3H); MS (ESI) 370.0 (M+H)+; Purity (HPLC) 94%.

reactant | 4-bromo-1-(2-methyl-benzenesulfonyl)-1H-indole | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C15H12BrNO2S
reactant | 3-methylpiperazine | CC1CNCCN1 | C5H12N2
product | 4-(3-Methyl-1-piperazinyl)-1-(2-methylbenzenesulfonyl)-1H-indole | 110 mg, 38% | CC1CN(CCN1)C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C20H23N3O2S
